### PR TITLE
Update more `store_thm` to modern syntax in `src`

### PR DESCRIPTION
**Pull request by dnezam**

### CODE REVIEW

**Comment by dnezam** [comment]
`bin/build -t3` passed locally

File: src/bag/bagScript.sml [hunk 1]
```diff
@@ -1167,15 +1169,14 @@ Theorem IN_SET_OF_BAG[simp]:
 Proof SIMP_TAC std_ss [SET_OF_BAG, SPECIFICATION]
 QED
 
-val SET_OF_BAG_EQ_EMPTY = store_thm(
-  "SET_OF_BAG_EQ_EMPTY",
-  ``!b. (({} = SET_OF_BAG b) = (b = {||})) /\
-        ((SET_OF_BAG b = {}) = (b = {||}))``,
+Theorem SET_OF_BAG_EQ_EMPTY[simp]:
+  !b. (({} = SET_OF_BAG b) = (b = {||})) /\
+        ((SET_OF_BAG b = {}) = (b = {||}))
```
Comment (mn200) [inline src/bag/bagScript.sml]: Indentation has become worse here.

File: src/finite_maps/finite_mapScript.sml [hunk 2]
```diff
@@ -3000,102 +3014,125 @@ Proof
...
+Theorem SUBMAP_mono_FUPDATE:
+    !f g x y. f \\ x SUBMAP g \\ x ==> f |+ (x,y) SUBMAP g |+ (x,y)
+Proof
+  SRW_TAC[][SUBMAP_FUPDATE]
+QED
 
-val SUBMAP_DOMSUB_gen = store_thm("SUBMAP_DOMSUB_gen",
-  ``!f g k. f \\ k SUBMAP g <=> f \\ k SUBMAP g \\ k``,
-  SRW_TAC[][SUBMAP_DEF,EQ_IMP_THM,DOMSUB_FAPPLY_THM]);
+Theorem SUBMAP_DOMSUB_gen:
```
Comment (mn200) [inline src/finite_maps/finite_mapScript.sml:3033]: Not your problem but why on earth is this theorem this way ’round?

File: src/pred_set/src/pred_setScript.sml [hunk 3]
```diff
@@ -954,41 +964,41 @@ Proof
...
      GEN_TAC THEN
-     REWRITE_TAC [NOT_IN_EMPTY,IN_DIFF,EXTENSION]);
+     REWRITE_TAC [NOT_IN_EMPTY,IN_DIFF,EXTENSION]
+QED
 
-val EMPTY_DIFF =
-    store_thm
-    ("EMPTY_DIFF",
-     (“!s:'a set. EMPTY DIFF s = EMPTY”),
+Theorem EMPTY_DIFF:
```
Comment (mn200) [inline src/pred_set/src/pred_setScript.sml]: This should pick up a `[simp]` annotation and lose the following `export_rewrites`.

File: src/pred_set/src/pred_setScript.sml [hunk 4]
```diff
@@ -1153,72 +1165,72 @@ Proof
...
+      !x:'a. !s. ~(EMPTY = x INSERT s)
+Proof
      REWRITE_TAC [EXTENSION,IN_INSERT,NOT_IN_EMPTY,IN_UNION] THEN
      CONV_TAC (ONCE_DEPTH_CONV NOT_FORALL_CONV) THEN
      REPEAT GEN_TAC THEN EXISTS_TAC (“x:'a”) THEN
-     REWRITE_TAC []);
+     REWRITE_TAC []
+QED
 
 val _ = export_rewrites ["NOT_INSERT_EMPTY"];
```
Comment (mn200) [inline src/pred_set/src/pred_setScript.sml]: Also should be a `[simp]` annotation

File: src/pred_set/src/pred_setScript.sml [hunk 5]
```diff
@@ -1359,11 +1372,11 @@ Proof
...
-    ("EMPTY_DELETE",
-     (“!x:'a. EMPTY DELETE x = EMPTY”),
-     REWRITE_TAC [EXTENSION,NOT_IN_EMPTY,IN_DELETE]);
+Theorem EMPTY_DELETE:
+      !x:'a. EMPTY DELETE x = EMPTY
+Proof
+     REWRITE_TAC [EXTENSION,NOT_IN_EMPTY,IN_DELETE]
+QED
 
 val _ = export_rewrites ["EMPTY_DELETE"];
```
Comment (mn200) [inline src/pred_set/src/pred_setScript.sml]: And here.

**Comment by dnezam** [comment]
I left those `export_rewrites` alone on purpose; I was planning to do one sweep through the files getting rid of as many of those as possible once Theory syntax is used in most places.

I can fix the indentation tomorrow/when I wake up again.

EDIT: Fixed the identation and the `simp`s you pointed out. As mentioned, I was hoping to get rid of a lot of `export_rewrites` in a future PR.
